US07232792B2
Methyl 2-chloro-3-(2-methyl-2H-1,3,4-dioxazol-5-yl)-4-methylsulfonylbenzoate (compound 4.44)
8.0 g (27.4 mmol) of methyl 2-chloro-3-(hydroxyiminomethyl)-4-methylsulfonylbenzoate in 150 ml of methylene chloride were admixed dropwise with 16.0 g (27.4 mmol) of a 12.5% strength sodium hypochlorite solution, and a spatula-tip of sodium acetate was added. After 1 hour, 34.4 g (0.74 mol) of acetaldehyde were added a little at a time within a period of 36 hours, and the mixture was slowly heated to 55° C. The mixture was subsequently stirred at room temperature for 48 hours, washed with water, dried and concentrated. The residue was then taken up in methylene chloride, 10.0 g (0.23 mol) of acetaldehyde and a spatula-tip of sodium acetate were added and the mixture was heated under reflux for 8 hours. After 72 hours, a further 10.0 g (0.23 mol) of acetaldehyde were added and the mixture was stirred at room temperature. The mixture was subsequently washed with water, dried and concentrated. The residue was passed through silica gel (eluent: isopropanol:cyclohexane=1:9). This gave 5.0 g (55% of theory) of methyl 2-chloro-3-(2-methyl-2H-1,3,4-dioxazol-5-yl)-4-methylsulfonylbenzoate.

reactant | methyl 2-chloro-3-(hydroxyiminomethyl)-4-methylsulfonylbenzoate | 27.4 mmol, 8.0 g | ClC1=C(C(=O)OC)C=CC(=C1C=NO)S(=O)(=O)C | C10H10ClNO5S
reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | acetaldehyde | 0.74 mol, 34.4 g | C(C)=O | C2H4O
reactant | acetaldehyde | 0.23 mol, 10.0 g | C(C)=O | C2H4O
reactant | acetaldehyde | 0.23 mol, 10.0 g | C(C)=O | C2H4O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-chloro-3-(2-methyl-2H-1,3,4-dioxazol-5-yl)-4-methylsulfonylbenzoate | ClC1=C(C(=O)OC)C=CC(=C1C1=NOC(O1)C)S(=O)(=O)C | C12H12ClNO6S
